US07772256B2
5-Methoxybenzofuran boronic acid (345 mg, 1.80 mmol), 6-bromo-2-fluoro-pyridin-3-ylamine (286.5 mg, 1.50 mmol), Pd(PPh3)2Cl2 (25.2 mg, 0.036 mmol) and Et3N (475.5 μL, 3.41 mmol) were mixed in EtOH (10 mL) in a microwave vial. The reaction mixture was stirred at 140° C. for 10 minutes in a microwave reactor. The volatiles were then removed under reduced pressure and water was added (20 mL). The product was extracted with ethyl acetate (30 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo. Purification of the crude product by flash column chromatography using 25% ethyl acetate in hexane gave 2-fluoro-6-(5-methoxy-benzofuran-2-yl)-pyridin-3-ylamine (268 mg) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ: 7.58 (d, J=7.6 Hz, 1 H), 7.39 (d, J=9.0 Hz, 1H), 7.15 (m, 1H), 7.14 (s, 1H), 7.04 (d, J=2.6 Hz, 1H), 6.88 (m, 1H), 3.95 (s, 2H), 3.85 (s, 3H). ESMS: m/z 259.47 [M+1]+

reactant | 5-Methoxybenzofuran boronic acid | 1.80 mmol, 345 mg | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
reactant | 6-bromo-2-fluoro-pyridin-3-ylamine | 1.50 mmol, 286.5 mg | BrC1=CC=C(C(=N1)F)N | C5H4BrFN2
reactant | Et3N | 3.41 mmol, 475.5 μL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.036 mmol, 25.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-fluoro-6-(5-methoxy-benzofuran-2-yl)-pyridin-3-ylamine | 268 mg | FC1=NC(=CC=C1N)C=1OC2=C(C1)C=C(C=C2)OC | C14H11FN2O2
